US06759429B2
Under nitrogen atmosphere, a solution of pyrazole (2.43 g) in DMSO (90 mL) was cooled to 0° C., and thereto was added successively NaH (1.57 g, 60%), and the mixture was stirred at room temperature for 30 minutes. To the mixture was added ethyl 4-fluorobenzoate (6.00 g) and the mixture was stirred at 110-120° C. for 20 hours. The mixture was cooled to room temperature, and thereto was added ice water (150 mL). The mixture was extracted twice with ethyl acetate, and dried over MgSO4. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column (hexane/ethyl acetate=50/3→50/4) to give ethyl 4-(1H-pyrazol-1-yl)benzoate (6.12 g, 79%).

reactant | pyrazole | 2.43 g | N1N=CC=C1 | C3H4N2
reactant | NaH | 1.57 g | [H-].[Na+]
reactant | ethyl 4-fluorobenzoate | 6.00 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
solvent | DMSO | 90 mL | CS(=O)C | C2H6OS
product | ethyl 4-(1H-pyrazol-1-yl)benzoate | 6.12 g, 79% | N1(N=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
